Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / diclofenac
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP on ___
 
History of Present Illness:
___ ___ prostate cancer, CKD stage III, solitary fibrous tumor 
of the pleura, referred from ___ clinic 
(where he is followed for management of anemia with macrocytosis 
and leukopenia and transfused one unit approximately every ___ 
months) after new finding of asymptomatic jaundice.  Labs 
notable for total bilirubin 3.7 with direct 2.3, ALT 149, AST 
109, alk phos 135.  (Results ___: ALT 48, AST 38, TB 1.1, 
alk phos 84).  Ultrasound without evidence of biliary 
obstruction.  Sent to ___ ED for further evaluation, per 
discussion with ___ team elect to pursue MRCP prior to invasive 
intervention.
 
Past Medical History:
Per ___ records:
Anemia
Prostate cancer in ___ treated with RP
Solitary fibrous tumor of the pleura
Asbestosis s/p exposure while in ___ approx. ___ years ago
Prior echo ___ with moderate MR
___ hepatitis
s/p hernia surgery
Prior ___ infection of the wrist
Cataracts
White coat hypertension

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Mild scleral icterus, pupils equally round and reactive, 
OP
clear with MMMs
NECK: Supple
JVP: Approx 8cm
CV: Heart regular rate and rhythm with II/VI HSM at apex, II/VI
systolic murmur at base
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, moderately distended, non-tender to palpation. 

___ absent.  Bowel sounds present.  No palpable mass or
organomegaly.
GU: No suprapubic fullness or tenderness to palpation
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, no pronator drift, no asterixis.  L>R hand tremor
with arms extended.
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VS: ___ 0804 Temp: 98.2 PO BP: 121/52 HR: 56 RR: 18 O2 sat:
93% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Mild scleral icterus, pupils equally round and reactive, 
OP
clear with MMMs
CV: Heart regular rate and rhythm with II/VI HSM
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, moderately distended, non-tender to palpation. 

___ absent.  Bowel sounds present.  No palpable mass or
organomegaly.
GU: No suprapubic fullness or tenderness to palpation
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, no pronator drift, no asterixis.  L>R hand tremor
with arms extended.
PSYCH: pleasant, appropriate affect 
 
Pertinent Results:
ADMISSION LABS
--------------
___ 02:25PM BLOOD WBC-4.2 RBC-2.33* Hgb-8.4* Hct-25.8* 
MCV-111* MCH-36.1* MCHC-32.6 RDW-22.5* RDWSD-88.4* Plt ___
___ 02:25PM BLOOD Glucose-98 UreaN-20 Creat-1.0 Na-139 
K-4.5 Cl-103 HCO3-22 AnGap-14
___ 02:25PM BLOOD ALT-131* AST-104* LD(LDH)-247 
AlkPhos-167* TotBili-3.9* DirBili-2.1* IndBili-1.8

IMAGING
-------
___ Ultrasound ___:
FINDINGS: 
LIVER: Normal.
INTRAHEPATIC DUCTS: Normal.
EXTRAHEPATIC DUCTS: Normal.  Common duct diameter: 5 mm, normal
GALLBLADDER: There are gallstones in the gallbladder.  There is 
no sonographic ___ sign.  There is generalized gallbladder 
wall thickening to 6 mm, which may reflect contraction given 
that the patient ate breakfast.  Given the presence of 
perihepatic ascites, trace pericholecystic fluid is a 
nonspecific finding.
PANCREAS: Normal imaged portion.  The distal pancreas is not 
visible.
RIGHT KIDNEY (measures 11.9 cm in length): Normal.
FREE FLUID:  There is a small amount of perihepatic ascites.

Impression:  Cholelithiasis, without evidence of sonographic 
___ sign.  Apparent gallbladder wall thickening may relate 
to physiologic gallbladder wall contraction given that the 
patient ate breakfast.  Small volume of perihepatic ascites.

DISCHARGE LABS
--------------
___ 05:55AM BLOOD WBC-2.2* RBC-2.23* Hgb-7.6* Hct-23.9 
(prior to 1 unit of PRBC) MCV-107* MCH-34.1* MCHC-31.8* 
RDW-23.9* RDWSD-91.7* Plt ___
___ 05:55AM BLOOD Glucose-85 UreaN-20 Creat-0.8 Na-140 
K-4.7 Cl-103 HCO3-25 AnGap-12
___ 05:55AM BLOOD ALT-82* AST-66* AlkPhos-157* TotBili-2.3*
___ 07:23AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.___ male with the past medical history and findings 
noted above referred from outpatient ___ clinic 
for further evaluation of asymptomatic jaundice.  Per ED 
discussion with ___ team, plan for ___ to further evaluate 
prior to invasive evaluation.

# Jaundice
# Transaminitis: asymptomatic other than jaundice.  There is no 
pain or nausea.  LFTs downtrending soon after presentation.  
MRCP showed there were multiple small stones in his biliary 
duct.  ERCP team chose to perform an ERCP with stone extraction. 
He was monitored post procedure and his labs improved. We 
discussed ___ and the patient decided to discuss with his PCP 
and hematologist prior to proceeding with surgery. He was able 
to tolerate a diet and was stable for discharge.

# Chronic anemia with macrocytosis and leukopenia: He follows 
with hematology as an outpatient with an increase in the 
frequency of transfusions. He received 2 units of PRBC while in 
the hospital given frequency of blood draws. THe 2nd unit was 
for a HCT of 23.9 in order to get above 25 so that he can 
continue outpatient transfusions. He will follow up with his 
hematologist as an outpatient for further transfusions. 
 
TRANSITIONS OF CARE
-------------------
# Follow-up: 
- PCP in the next 5 days
- Hematologist as scheduled in 1.5 weeks on ___. At these 
appointments the patient would like to discuss the possibility 
of ___ as an outpatient. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
Centrum 1 tablet daily
Primidone 50mg daily
Vitamin B12 1 tab daily
Vitamin D1 (2000mg) capsule daily
 
Discharge Medications:
1.  PrimiDONE 50 mg PO BID  
Vitamin B12 1 tab daily
Vitamin D1 (2000mg) capsule daily
Centrum 1 tablet daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction
Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with yellow skin, or 
jaundice.  Further testing showed that there was a blockage due 
to a stone in your bile duct. You underwent a procedure called 
an ERCP and we removed the stone. You improved and are now 
stable for discharge.  

We discussed the possibility of a surgery to remove your 
gallbladder and you should continue that conversation with your 
primary care provider and with your hematologist.  

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___